US05977141
(a) (4-Fluoro-benzenesulfonylamino)-acetic acid
A mixture of 4-fluoro-benzenesulfonyl chloride (9.68 g, 0.497 mol), glycine (4.48 g, 0.0598 mol), and sodium carbonate (16.99 g, 0.160 mol) in water (60 mL) was stirred at room temperature for 42 hours. The mixture was carefully acidified to pH 8 to 9 with concentrated hydrochloric acid, and washed 2 times with dichloromethane. The aqueous layer was acidified further to pH 2, and the resulting white suspension was extracted two times with ethyl acetate. The extracts were combined, washed with saturated sodium chloride solution, and dried over magnesium sulfate. The dried solution was rotary evaporated to give a white solid, which was dried in vacuo; yield 4.7 g (41%), mp=154.0-155.5° C.

reactant | 4-fluoro-benzenesulfonyl chloride | 0.497 mol, 9.68 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | glycine | 0.0598 mol, 4.48 g | NCC(=O)O | C2H5NO2
reactant | sodium carbonate | 0.160 mol, 16.99 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 60 mL | O | H2O
product | (4-Fluoro-benzenesulfonylamino)-acetic acid | FC1=CC=C(C=C1)S(=O)(=O)NCC(=O)O | C8H8FNO4S
